US04281188
5 g (0.016 M) of 7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one are heated at reflux with 15 ml of ethylisocyanate under nitrogen for 7 hours. The mixture is poured on to methanol/ice-water and extracted with methylene chloride. The organic phase is separated, dried with sodium sulphate, filtered and concentrated. The residue is purified on a 300 g silica gel column using ethyl acetate as the eluting agent and crystallised from ethyl acetate/ether. There is obtained 1-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-ethylurea which melts at 155°-160° C. with decomposition.

reactant | 7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.016 M, 5 g | NC=1C=CC2=C(C(=NCC(N2C)=O)C2=C(C=CC=C2)F)C1Cl | C16H13ClFN3O
reactant | ethylisocyanate | 15 ml | C(C)N=C=O | C3H5NO
product | 1-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-ethylurea | ClC1=C(C=CC2=C1C(=NCC(N2C)=O)C2=C(C=CC=C2)F)NC(=O)NCC | C19H18ClFN4O2
